US07115602B2
3-Bromobenzenecarboximidamide hydrochloride
1.18 g (22 mmol, 2 equiv.) ammonium chloride are suspended in 40 ml of dry toluene under an argon atmosphere, and the mixture is cooled to 0° C. 11 ml (22 mmol, 2 equiv.) of a 2M solution of trimethylaluminium in hexane are added dropwise, and the reaction mixture is stirred at room temperature until no more evolution of gas is observed. After addition of 2.0 g (11 mmol, 1 equiv.) 3-bromo-benzonitrile, the mixture is stirred at 80° C. bath temperature over night. It is then cooled down to 0° C. and 50 ml of methanol are added with subsequent stirring of 1 hour at room temperature. After filtration, the solid is washed with methanol for several times, the solution is evaporated to dryness in vacuo and the residue washed with methanol.

reactant | ammonium chloride | 22 mmol, 1.18 g, 2 equiv. | [Cl-].[NH4+]
reactant | trimethylaluminium | C[Al](C)C
reactant | 3-bromo-benzonitrile | 11 mmol, 2.0 g, 1 equiv. | BrC=1C=C(C#N)C=CC1 | C7H4BrN
reactant | methanol | 50 ml | CO | CH4O
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 3-Bromobenzenecarboximidamide hydrochloride | Cl.BrC=1C=C(C=CC1)C(N)=N | InChI=1S/C7H7BrN2.ClH/c8-6-3-1-2-5(4-6)7(9)10;/h1-4H,(H3,9,10);1H
